US06340757B1
To a solution in which 3.80 g of ethyl 4-fluoro-3-oxooctanoate had been dissolved in 10 ml of methanol were added 8.97 g of a 28% sodium methoxide methanol solution and 3.72 g of formamidine acetate, and the mixture was stirred at 60° C. for 5 hours. Then, the reaction mixture was concentrated under reduced pressure. To the concentrated solution were added 30 ml of water and 5.0 g of conc. hydrochloric acid, followed by cooling the mixture to 10 C, and the precipitated crystals were separated by filtration. These crystals were recrystallized from 20 ml of 2-propanol to obtain 2.30 g of 6-(1-fluoropentyl)-4-pyrimidone (isolated yield: 67.1%).

reactant | sodium methoxide methanol | CO.C[O-].[Na+]
reactant | formamidine acetate | 3.72 g | C(C)(=O)O.C(=N)N
reactant | ethyl 4-fluoro-3-oxooctanoate | 3.80 g | FC(C(CC(=O)OCC)=O)CCCC | C10H17FO3
solvent | methanol | 10 ml | CO | CH4O
product | 6-(1-fluoropentyl)-4-pyrimidone | 2.30 g, yield: 67.1% | FC(CCCC)C1=CC(NC=N1)=O | C9H13FN2O
